US07981903B2
A solution of 8-fluoro-5-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (4.5 g, 5.81 mmol) and 30% aqueous NH4OH (75 mL, 5.81 mmol) and tetrahydrofuran (75 mL) was stirred at rt overnight in a 200 mL rb flask. The solution was extracted with ethyl acetate (250 mL) and brine (50 mL). The organic layers were dried over MgSO4, filtered, concentrated onto Celite and purified on SiO2 (1-10% MeOH in CH2Cl2 and 0.1% NH4OH) to afford 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (2.78 g, 3.51 mmol, 60% yield) as a mixture with several other products. The desired product was the predominant component. The product weight was 2.78 grams. ESIMS (M+H)+=792.42 (100%). This material was used without further purification in the next step.

reactant | 8-fluoro-5-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 5.81 mmol, 4.5 g | FC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C(C=C3)N3CCC(CC3)N3CCN(CC3)S(=O)(=O)C)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C37H39FN8O6S2
reactant | NH4OH | 5.81 mmol, 75 mL | [NH4+].[OH-]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 2-fluoro-6-({2-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 3.51 mmol, 2.78 g, 60% yield | FC1=C(C(=O)N)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C37H42FN9O6S2
